US06420557B1
(b) Ethyl 2-hydroxy-5-sulfonicotinoate
2-Hydroxy-5-sulfonicotinic acid (500 g, 2.28 mol) was dissolved in ethanol (2.5 L) with stirring and heated to 80° C. After 30 mins 0.5 L of solvent was distilled off, then replaced with fresh ethanol (0.5 L) and taken back to 80° C. After a further 60 mins 1.0 L of solvent was distilled off, then replaced with fresh ethanol (1.0 L) and taken back to 80° C. After a further 60 mins 1.0 L of solvent was distilled off, the reaction cooled to 22° C. and stirred for 16 hr. The precipitated product was filtered, washed with ethanol (0.5 L) and dried at 50° C. under vacuum to afford the title compound (416 g, 74%) as a white solid. Decomposition pt 237° C. δ (DMSOd6): 1.25 (3H, t), 4.19 (2H,q), 7.66 (1H, d), 8.13 (1H, d). m/z (Found: 248 [M+H]+, 100%. C8H10NO6S requires 248.22).

reactant | 2-Hydroxy-5-sulfonicotinic acid | 2.28 mol, 500 g | OC1=C(C(=O)O)C=C(C=N1)S(=O)(=O)O | C6H5NO6S
reactant | ethanol | 2.5 L | C(C)O | C2H6O
product | Ethyl 2-hydroxy-5-sulfonicotinoate | 416 g, 74% | OC1=C(C(=O)OCC)C=C(C=N1)S(=O)(=O)O | C8H9NO6S
